US07384967B2
N-(2-Phenoxyphenyl)-N′-(pyridin-2-yl)urea (109 mg, 72%) was prepared from 2-phenoxyphenylisocyanate (106 mg, 0.5 mmol) and 2-aminopyridine (60 mg, 0.6 mmol) following the general procedure E.

reactant | 2-phenoxyphenylisocyanate | 0.5 mmol, 106 mg | O(C1=CC=CC=C1)C1=C(C=CC=C1)N=C=O | C13H9NO2
reactant | 2-aminopyridine | 0.6 mmol, 60 mg | NC1=NC=CC=C1 | C5H6N2
product | N-(2-Phenoxyphenyl)-N′-(pyridin-2-yl)urea | 109 mg, 72% | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=O)NC1=NC=CC=C1 | C18H15N3O2
